US06900324B2
Synthesis of Isopropyl 8-[(2,6-dimethylbenzyl)amino]-2, 3-dimethylimidazo[1,2-a]pyridine-6-carboxylate
Isopropyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate (9.85 kg, 1.0 equiv., 29.71 mol) was suspended in isopropanol (59 L); NaI (0.6 equiv., 2.68 kg, 17.88 mol) and is K2CO3 (2.5 equiv, 10.29 kg, 74.48 mol) were added and the mixture was heated to about 70° C. 2,6-Dimethylbenzyl chloride (1.1 equiv, 5.22 kg, 32.77 mol) was dissolved in isopropanol (˜60 L) and this solution was added to the reaction mixture. After the addition was complete, the temperature was kept at 60° C. for additional 1.5 hours. Additional K2CO3 was added (9.15 kg) and the resulting suspension was stirred for further 2 h at 60° C. Additional 2,6-dimethylbenzyl chloride (2.76 kg) in isopropanol (22L) was added slowly at an temperature of 60° C.; after the addition the reaction mixture was stirred for further 4 hours at this temperature. The suspension was diluted with water (124L), cooled, stirred and filtered. The filtercake was washed with water and then with cold isopropanol, dried under reduced pressure at 40° C. to give 11.37 kg wet material, yield: 90%.

reactant | Isopropyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate | 29.71 mol, 9.85 kg, 1.0 equiv. | NC=1C=2N(C=C(C1)C(=O)OC(C)C)C(=C(N2)C)C | C13H17N3O2
reactant | NaI | 17.88 mol, 2.68 kg, 0.6 equiv. | [Na+].[I-]
reactant | K2CO3 | 74.48 mol, 10.29 kg, 2.5 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,6-Dimethylbenzyl chloride | 32.77 mol, 5.22 kg, 1.1 equiv | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
reactant | 2,6-dimethylbenzyl chloride | 2.76 kg | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
solvent | isopropanol | 59 L | C(C)(C)O | C3H8O
solvent | isopropanol | ˜60 L | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | Isopropyl 8-[(2,6-dimethylbenzyl)amino]-2, 3-dimethylimidazo[1,2-a]pyridine-6-carboxylate | 11.37 kg, yield: 90% | CC1=C(CNC=2C=3N(C=C(C2)C(=O)OC(C)C)C(=C(N3)C)C)C(=CC=C1)C | C22H27N3O2
